US07229610B2
Cyanoacetyl chloride (5.2 g, 0.05 mol) is added dropwise over 20 minutes to a mixture of 3-[1,3,3,3-tetramethyl-1-[(trimethylsilyl)oxy]disiloxanyl]propylamine (13.93 g, 0.05 mol) and of triethylamine (5 g, 0.05 mol) in 40 ml of dichloromethane. The temperature rises to 32° C. The mixture is refluxed for two hours. The reaction mixture is poured into 150 ml of water and is extracted with dichloromethane. The organic phases are washed with water and dried over sodium sulfate, and the solvent is then evaporated off. After purification by passing through a column of silica (eluent: 70/30 heptane/ethyl acetate), 12.2 g (70% yield) of cyano-N-[3-[1,3,3,3-tetramethyl-1-[(trimethylsilyl)oxy]disiloxanyl]propyl]acetamide are obtained in the form of a colorless oil, which is used without further purification in the following step.

reactant | Cyanoacetyl chloride | 0.05 mol, 5.2 g | C(#N)CC(=O)Cl | C3H2ClNO
reactant | 3-[1,3,3,3-tetramethyl-1-[(trimethylsilyl)oxy]disiloxanyl]propylamine | 0.05 mol, 13.93 g | C[Si](O[Si](C)(C)C)(O[Si](C)(C)C)CCCN | C10H29NO2Si3
reactant | triethylamine | 0.05 mol, 5 g | C(C)N(CC)CC | C6H15N
reactant | water | 150 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | cyano-N-[3-[1,3,3,3-tetramethyl-1-[(trimethylsilyl)oxy]disiloxanyl]propyl]acetamide | 12.2 g, 70% yield | C(#N)CC(=O)NCCC[Si](O[Si](C)(C)C)(O[Si](C)(C)C)C | C13H30N2O3Si3
